US06887896B1
1-(4-Bromo-8-tert-butyl-3-hydroxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-107)
As described in General Procedure L-1, sodium hydride (211 mg, 5.28 mmol) and ethanethiol (0.39 mL, 5.28 mmol) was treated with a solution of 1-(4-bromo-8-tert-butyl-3-methoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-104, 536 mg, 1.47 mmol) in N,N-dimethylformamide to afford the title compound after purification by flash chromatography (silica gel, 5% ethyl acetate in hexane).

reactant | sodium hydride | 5.28 mmol, 211 mg | [H-].[Na+]
reactant | ethanethiol | 5.28 mmol, 0.39 mL | C(C)S | C2H6S
reactant | 1-(4-bromo-8-tert-butyl-3-methoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 1.47 mmol, 536 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)C(C)=O)OC | C19H25BrO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-Bromo-8-tert-butyl-3-hydroxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)C(C)=O)O | C18H23BrO2
